US07943776B2
N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(pyridin-2-ylmethoxy)pyrazine-2-carboxamide
To 2-pyridinylmethanol (300 μL) was added sodium hydride 60% dispersion in oil (20 mg, 1.39 mmol) under inert atmosphere and the mixture stirred at room temperature for 10 minutes. NMP (600 μL) was then added followed by 5-chloro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-pyrazinecarboxamide (100 mg, 0.303 mmol) and the resulting mixture stirred for 48 hours. The solvent was evaporated under reduced pressure and the residue partitioned between saturated aqueous sodium bicarbonate and DCM. Evaporation of DCM, precipitation with diethyl ether and isohexanes and filtration gave the title compound as a solid (25 mg, 20%); NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.69 (m, 2H), 2.31 (s, 3H), 2.86 (m, 1H), 5.59 (s, 2H), 7.36 (m, 2H), 7.55 (m, 1H), 7.62 (d, 1H), 7.86 (m, 1H), 8.08 (m, 1H), 8.37 (m, 1H), 8.58 (m, 2H), 8.89 (s, 1H), 9.76 (s, 1H); Mass Spectrum: M+H+ 404.

reactant | 2-pyridinylmethanol | 300 μL | N1=C(C=CC=C1)CO | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-pyrazinecarboxamide | 0.303 mmol, 100 mg | ClC=1N=CC(=NC1)C(=O)NC1=C(C=CC(=C1)C(=O)NC1CC1)C | C16H15ClN4O2
solvent | NMP | 600 μL | CN1CCCC1=O | C5H9NO
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(pyridin-2-ylmethoxy)pyrazine-2-carboxamide | 25 mg, 20% | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C1=NC=C(N=C1)OCC1=NC=CC=C1)C | C22H21N5O3
